US09079866B2
Into a 100 mL flask were added 7-(4-chloro-2-fluorophenyl)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine (1.25 g, 4.72 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.5 g, 5.9 mmol), KOAc (1.39 g, 14.2 mmol), Chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II), 186 g, 0.236 mmol), and a stir bar. The flask was sealed with a rubber septum and sparged with N2. The flask was charged with freshly sparged 1,4-dioxane (25 mL) and heated at 80° Celsius for 16 hours. The reaction was cooled to rt and concentrated to dryness. The crude product was purified by FCC to give 7-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)phenyl)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine (1.208 g, 71%). 1H NMR (500 MHz, CDCl3) δ 7.86-7.84 (m, 1H), 7.61-7.59 (m, 1H), 7.56-7.53 (m, 1H), 7.38 (m, 1H), 7.27-7.24 (m, 1H), 4.27-4.22 (m, 2H), 3.61-3.58 (m, 2H), 2.09 (s, 1H), 1.35 (s, 12H).

reactant | 7-(4-chloro-2-fluorophenyl)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine | 4.72 mmol, 1.25 g | ClC1=CC(=C(C=C1)C1=CC=2OCCNC2N=C1)F | C13H10ClFN2O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 5.9 mmol, 1.5 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C.CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | 2C12H24B2O4
reactant | KOAc | 14.2 mmol, 1.39 g | CC(=O)[O-].[K+]
catalyst | Chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
product | 7-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3-dioxolan-2-yl)phenyl)-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine | 1.208 g, 71% | FC1=C(C=CC(=C1)C1OC(C(O1)(C)C)(C)C)C1=CC=2OCCNC2N=C1 | C20H23FN2O3
